US05919806
Synthesis of 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-(3-chloropropylureido)-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole
400 mg (1.70 mmol) of 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole and 40 ml of dichloromethane were stirred at room temperature, and 192 μl (1.87 mmol) of 3-chloropropyl isocyanate were added thereto and stirred for 5 hours. The crystals precipitated were taken out by filtration to obtain 250 mg of the intended compound as pale yellow crystals. (yield: 41%)

reactant | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole | 1.70 mmol, 400 mg | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)N)O)C | C11H13N3O3
reactant | 3-chloropropyl isocyanate | 1.87 mmol, 192 μl | ClCCCN=C=O | C4H6ClNO
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-(3-chloropropylureido)-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole | 250 mg, yield: 41% | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)NC(=O)NCCCCl)O)C | C15H19ClN4O4
